US07825135B2
2,4-Dichloro-N-{[4-(6-chloropyridin-2-yl)-1-(propylsulfonyl)piperidin-4-yl]methyl}benzamide
2,6-Dichloropyridine was reacted with tert-butyl 4-cyanopiperidine-1-carboxylate, reduced using Raney nickel, acylated with 2,4-dichlorobenzoyl chloride, deprotected and then sulphonylated with 1-propane sulphonyl chloride using the method described in example 10-2 to afford the desired product: 2,4-dichloro-N-{[4-(6-chloropyridin-2-yl)-1-propylsulfonyl)piperidin-4-yl]methyl}benzamide: 1H NMR δ (ppm)(CDCl3): 7.69 (1 H, t, J=7.8 Hz), 7.63 (1 H, d, J=8.3 Hz), 7.40 (1 H, d, J=1.9 Hz), 7.32-7.30 (2 H, m), 7.24 (1 H, d, J=7.8 Hz), 6.94 (1 H, m), 3.89 (2 H, d, J=6.2 Hz), 3.48-3.40 (4 H, m), 2.91-2.89 (2 H, m), 2.29-2.23 (2 H, m), 1.99-1.95 (2 H, m), 1.88-1.81 (2 H, m), 1.06 (3 H, t, J=7.4 Hz), m/z (ES) 504, 506 (M+H).

reactant | 2,6-Dichloropyridine | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | tert-butyl 4-cyanopiperidine-1-carboxylate | C(#N)C1CCN(CC1)C(=O)OC(C)(C)C | C11H18N2O2
reactant | 2,4-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 1-propane sulphonyl chloride | C(CC)S(=O)(=O)Cl | C3H7ClO2S
catalyst | Raney nickel | [Ni] | Ni
product | 2,4-Dichloro-N-{[4-(6-chloropyridin-2-yl)-1-(propylsulfonyl)piperidin-4-yl]methyl}benzamide | ClC1=C(C(=O)NCC2(CCN(CC2)S(=O)(=O)CCC)C2=NC(=CC=C2)Cl)C=CC(=C1)Cl | C21H24Cl3N3O3S
